US04885298
A solid mixture of 9 g flavanone, 7.2 g 3-acetylaminobenzaldehyde and 5 drops piperidine is heated at 150°-160° C. for 3 hours. After allowing to cool, the crude brown glass is dissolved in chloroform and eluted from silicagel with chloroform. The pale yellow oil, obtained on evaporation of the solvent is crystallized from hexane and ethyl acetate to give 3(3-acetylaminobenzylidene)-flavanone as a cream coloured solid; m.p. 172°-173° C.

reactant | flavanone | 9 g | O1C(CC(=O)C2=CC=CC=C12)C1=CC=CC=C1 | C15H12O2
reactant | 3-acetylaminobenzaldehyde | 7.2 g | C(C)(=O)NC=1C=C(C=O)C=CC1 | C9H9NO2
catalyst | piperidine | 5 drops | N1CCCCC1 | C5H11N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3(3-acetylaminobenzylidene)-flavanone | C(C)(=O)NC=1C=C(C=C2C(OC3=CC=CC=C3C2=O)C2=CC=CC=C2)C=CC1 | C24H19NO3
